US09193726B2
Step 1. Synthesis of 2-{[cis-2-(benzyloxy)cyclobutyl]amino}ethanol (C14)
A solution of 2-(benzyloxy)cyclobutanone (prepared according to the method of P. Bisel et al., Eur. J. Org. Chem. 1998, 4, 729-733; 2.35 g, 13.3 mmol) and 2-aminoethanol (1.63 g, 26.7 mmol) in dichloromethane (47 mL) was treated with acetic acid (0.76 mL, 13.3 mmol) and sodium triacetoxyborohydride (5.95 g, 26.7 mmol) and stirred at room temperature for 16 hours. Aqueous sodium hydroxide solution (1 N, 100 mL) was added and the mixture was extracted with dichloromethane (2×100 mL). The combined organic layers were washed with aqueous sodium hydroxide solution (1 N, 100 mL), dried over magnesium sulfate and concentrated in vacuo to afford the product as a colorless oil. Yield: 2.9 g, 13 mmol, 98%. 1H NMR (400 MHz, CDCl3) δ 7.28-7.39 (m, 5H), 4.51 (AB quartet, JAB=11.7 Hz, ΔνAB=61.1 Hz, 2H), 4.13-4.18 (m, 1H), 3.54-3.58 (m, 2H), 3.32-3.39 (m, 1H), 2.72-2.78 (m, 2H), 2.5 (v br s, 2H), 2.05-2.14 (m, 1H), 1.83-1.98 (m, 3H).

reactant | 2-(benzyloxy)cyclobutanone | C(C1=CC=CC=C1)OC1C(CC1)=O | C11H12O2
reactant | 2-aminoethanol | 26.7 mmol, 1.63 g | NCCO | C2H7NO
reactant | acetic acid | 13.3 mmol, 0.76 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 26.7 mmol, 5.95 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 N, 100 mL | [OH-].[Na+]
solvent | dichloromethane | 47 mL | ClCCl | CH2Cl2
product | 2-{[cis-2-(benzyloxy)cyclobutyl]amino}ethanol | C(C1=CC=CC=C1)O[C@@H]1[C@@H](CC1)NCCO | C13H19NO2
